.subckt 0606_150066M153000 1 2 3 4
D1 4 1 Red
.MODEL Red D
+ (IS=3.6445E-12
+ N=3.4861
+ RS=2.2587
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 2 Green
.MODEL  Green D
+ (IS=98.331E-3
+ N=5
+ RS=13.447
+ IKF=454.75E-15
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 4 3 Blue
.MODEL Blue D
+ (IS=143.10E-15
+ N=4.2306
+ RS=8.8603
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
****************************
.subckt 0805_150080M153000 1 2 3 4
*********************blue
D3 4 3 Blue
.MODEL Blue D
+ (IS=181.04E-15
+ N=4.5726
+ RS=7.0049
+ IKF=6.0347E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
********green
D2 4 2 Green
.MODEL Green D
+ (IS=50.544E-18
+ N=3.5739
+ RS=7.6206
+ IKF=542.29
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
**********red
D1 4 1 Red
.MODEL Red D
+ (IS=403.87E-18
+ N=2.3837
+ RS=1.1892
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
****************************
.subckt 1210_150121M153000 1 2 3 4
***red
D1 4 1 Red
.MODEL Red D
+ (IS=198.88E-18
+ N=2.2998
+ RS=1.0406
+ IKF=29.339
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
**green
D2 4 2 Green
.MODEL Green D
+ (IS=10.000E-21
+ N=2.7940
+ RS=5.4148
+ IKF=7.4975E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
***blue
D3 4 3 Blue
.MODEL Blue D
+ (IS=1.3659E-15
+ N=3.7847
+ RS=5.5900
+ IKF=5.7306E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
************************